US06727264B1
N-[3-(1-{4-[(DIPHENYLACETYL)AMINO]BUTYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE:
Prepared by Procedure Q2 (THF/DCM, 1:3)) and Scheme AT using N-{3-[1-(4-aminobutyl)-4-piperidinyl]phenyl)-2-methylpropanamide and diphenylacetyl chloride: ESMS m/e: 512.0 (M+H)+.

reactant | N-{3-[1-(4-aminobutyl)-4-piperidinyl]phenyl)-2-methylpropanamide | NCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C19H31N3O
reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
solvent | THF DCM | C1CCOC1.C(Cl)Cl
product | N-[3-(1-{4-[(DIPHENYLACETYL)AMINO]BUTYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | C1(=CC=CC=C1)C(C(=O)NCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C33H41N3O2
